US20010027196A1
Following the method of Rudorf and Augustin (J. Prakt. Chem. 1978, 320, 576), a solution of 250 mg (1.04 mmol) 2-(furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile, 205 mg (1.25 mmol) N-(aminoiminomethyl)benzamide and 0.36 ml (2.61 mmol) triethylamine in 5 ml DMF was heated at reflux for 6 h. The reaction mixture was then cooled to room temperature and partitioned between ethyl acetate and water. The phases were separated and the organic phase dried over sodium sulfate and concentrated in vacuo. Chromatography (hexane then ethyl acetate/hexane 1/1) afforded 199 mg (57%) N-(5-cyano-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl)-benzamide as an off-white amorphous solid. ES-MS m/e (%): 359 (M+Na+, 36), 337 (M+H+, 100).

reactant | 2-(furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile | 1.04 mmol, 250 mg | O1C(=CC=C1)C(=O)C(C#N)=C(SC)SC | C10H9NO2S2
reactant | N-(aminoiminomethyl)benzamide | 1.25 mmol, 205 mg | NN=CNC(C1=CC=CC=C1)=O | C8H9N3O
reactant | triethylamine | 2.61 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(5-cyano-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl)-benzamide | 199 mg, 57% | C(#N)C=1C(=NC(=NC1SC)NC(C1=CC=CC=C1)=O)C=1OC=CC1 | C17H12N4O2S
